US05541229
Tert.-butyl 4'-[(2-n-butyl-6-(2-phenylethylamino-carbonyl)-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate
484 mg (1 mmol) of tert.-butyl 4'-[(2-n-butyl-6-carboxy-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate are dissolved in 10 ml of absolute tetrahydrofuran and cooled to -20° C. with stirring and cooling with dry ice/isopropanol. At this temperature 101 mg (1 mmol) of N-methylmorpholine are added. The resulting mixture is then cooled to -30° C. and a solution of 136 mg (1 mmol) of isobutylchloroformate dissolved in 5 ml of absolute tetrahydrofuran is slowly added dropwise. To complete the formation of the mixed anhydride the mixture is stirred for a further hour at -40° C. At -40° C. 134 mg (1.1 mmol) of 2-phenylethylamine dissolved in 2 ml of absolute tetrahydrofuran are slowly added dropwise. Then the mixture is allowed to rise slowly to ambient temperature and stirred for 16 hours at ambient temperature. The solvent is distilled off, the remaining viscous oil is taken up in saturated common salt solution/ethyl acetate and extracted 3 times in all with ethyl acetate. The ethyl acetate phases are dried over sodium sulphate and evaporated down. The viscous oil is dissolved in methylene chloride and purified over a silica gel column (eluant: methylene chloride/ethanol 50:1 and 25:1).

reactant | tert.-butyl 4'-[(2-n-butyl-6-carboxy-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate | 1 mmol, 484 mg | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C=C(C=C2)C(=O)O | C30H32N2O4
reactant | dry ice isopropanol | C(=O)=O.C(C)(C)O
reactant | N-methylmorpholine | 1 mmol, 101 mg | CN1CCOCC1 | C5H11NO
reactant | isobutylchloroformate | 1 mmol, 136 mg | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | 2-phenylethylamine | 1.1 mmol, 134 mg | C1(=CC=CC=C1)CCN | C8H11N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | Tert.-butyl 4'-[(2-n-butyl-6-(2-phenylethylamino-carbonyl)-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C=C(C=C2)C(=O)NCCC2=CC=CC=C2 | C38H41N3O3
